US08044075B2
To a 20 ml scintillation vial was added 2,3-dichloro-5-(chlorosulfonyl)benzoic acid (170 mg, 0.587 mmol). To this was added 1.5 ml of DCM and 7 ml of 7M NH4OH. The reaction mixture was stirred vigorously at room temperature overnight. After consumption of the starting material, the reaction solution was concentrated to half volume with a rotary evaporator and acidified with 6M HCl to ˜pH 4.5. The resulting solution was left at room temperature until the product precipitated. The product was collected by vacuum filtration and air dried, yielding 5-(aminosulfonyl)-2,3-dichlorobenzoic acid (80 mg, 50%) as light yellow solid.

reactant | 2,3-dichloro-5-(chlorosulfonyl)benzoic acid | 0.587 mmol, 170 mg | ClC1=C(C(=O)O)C=C(C=C1Cl)S(=O)(=O)Cl | C7H3Cl3O4S
reactant | NH4OH | 7M, 7 ml | [NH4+].[OH-]
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 5-(aminosulfonyl)-2,3-dichlorobenzoic acid | 80 mg, 50% | NS(=O)(=O)C=1C=C(C(=C(C(=O)O)C1)Cl)Cl | C7H5Cl2NO4S
